US08076329B2
A suspension of potassium carbonate (3.11 g) in a mixture of 4-[4-(3-chloropropoxy)phenyl]cyclohexanone (2 g), piperidine (2.22 mL) and N,N-dimethylformamide (40 mL) is heated for three hour at a temperature close to 110° C., then stirred for twenty hour at room temperature. The mixture is concentrated under reduced pressure and dissolved in ethyl acetate (150 mL) and water (150 mL). The organic phase is washed twice with water (100 mL), dried over magnesium sulphate, concentrated under reduced pressure and purified by chromatography over silica gel with a gradient dichloromethane/methanol from 95/5 to 90/10. Fractions containing the product are pooled and concentrated under reduced pressure affording 1.94 g of 1-{3-[4-(4-oxocyclohexyl)phenoxy]propyl}-piperidine as a yellow solid used without further purification.

reactant | potassium carbonate | 3.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | 2.22 mL | N1CCCCC1 | C5H11N
reactant | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
reactant | 4-[4-(3-chloropropoxy)phenyl]cyclohexanone | 2 g | ClCCCOC1=CC=C(C=C1)C1CCC(CC1)=O | C15H19ClO2
product | 1-{3-[4-(4-oxocyclohexyl)phenoxy]propyl}-piperidine | 1.94 g | O=C1CCC(CC1)C1=CC=C(OCCCN2CCCCC2)C=C1 | C20H29NO2
